US07759385B2
1-hydroxybenzotriazole (1.08 mg, 8 mmole), 3-pyrrolidine-3-yl-1H-indole (744 mg, 4 mmole) and N-methylmorpholine (0.888 ml, 8 mmole) were added in succession under argon to a solution of [4-dimethylamino-4-(4-fluorophenyl)-cyclohexylidene)-acetic acid (1.055 g, 4 mmole) in dry dimethylformamide (40 ml). The clear solution was cooled in an ice bath and dicyclohexylcarbodiimide (1.65 g, 8 mmole) was added. The reaction mixture was stirred for 5 days at room temperature, the dicyclohexylurea precipitating out little by little. The reaction mixture was worked up by separating the precipitated urea and adding the filtrate to a mixture of saturated NaCl solution (40 ml) and saturated NaHCO3 solution (10 ml). Further urea thereupon precipitated out, which was separated. The filtrate was diluted with water (300 ml) and 5M sodium hydroxide (7 ml, 35 mmole) was added. The crude product of 2-(4-dimethylamino-4-(4-fluorophenyl)cyclohexylidene)-1-[3-(1H-indol-3-yl)pyrrolidine-1-yl]-ethanone thereupon precipitated out as a beige-coloured solid (1.67 g). The chromatographic separation on silica gel (80 g) was carried out with EE/methanol (1:1). 2-(4-dimethylamino-4-(4-fluorophenyl)cyclohexylidene)-1-[3-(1H-indol-3-yl)pyrrolidine-1-yl]-ethanone was thereby obtained as a diastereoisomer mixture in a yield of 52% (916 mg) in the form of a colourless solid with a melting point of 109°-112° C.

reactant | 1-hydroxybenzotriazole | 8 mmole, 1.08 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 3-pyrrolidine-3-yl-1H-indole | 4 mmole, 744 mg | N1CC(CC1)C1=CNC2=CC=CC=C12 | C12H14N2
reactant | N-methylmorpholine | 8 mmole, 0.888 ml | CN1CCOCC1 | C5H11NO
reactant | [4-dimethylamino-4-(4-fluorophenyl)-cyclohexylidene)-acetic acid | 4 mmole, 1.055 g | CN(C1(CCC(CC1)=CC(=O)O)C1=CC=C(C=C1)F)C | C16H20FNO2
reactant | dicyclohexylcarbodiimide | 8 mmole, 1.65 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dicyclohexylurea | C(=O)(NC1CCCCC1)NC1CCCCC1 | C13H24N2O
reactant | sodium hydroxide | 35 mmole, 5M, 7 ml | [OH-].[Na+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | 300 ml | O | H2O
product | 2-(4-dimethylamino-4-(4-fluorophenyl)cyclohexylidene)-1-[3-(1H-indol-3-yl)pyrrolidine-1-yl]-ethanone | yield of 52% | CN(C1(CCC(CC1)=CC(=O)N1CC(CC1)C1=CNC2=CC=CC=C12)C1=CC=C(C=C1)F)C | C28H32FN3O
